US07834051B2
rac-4-[(2R,3R)-3-hydroxy-2,3,4,4-tetramethyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile
Using 2-(trifluoromethyl)-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (100 mg) and methylmagnesium bromide-THF solution (3.22 mL, 1.0 mol/L), and in the same manner as in Example 2, the title compound was obtained as a colorless solid (yield: 77 mg, 73%).

reactant | 2-(trifluoromethyl)-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 100 mg | FC(C1=C(C#N)C=CC(=C1)N1C(C(C(C1C)=O)(C)C)=O)(F)F | C15H13F3N2O2
reactant | methylmagnesium bromide THF | 1.0 mol/L, 3.22 mL | C[Mg]Br.C1CCOC1
product | rac-4-[(2R,3R)-3-hydroxy-2,3,4,4-tetramethyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | O[C@]1([C@H](N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)C)C | C16H17F3N2O2
